US04271073
232 g. (1 mole) of cyclohexanedione-mono-p-methoxyphenylhydrazone, 1200 ml. of water, 350 g. of sulfuric acid (65 Be) and 100 ml. of ethanol are allowed to boil under reflux for three hours. After cooling down, the mixture is filtered with suction and rendered free from acid by washing with water. The resultant 6-methoxy-1,2,3,4-tetrahydrocarbazol-1-one melts at 222° C. and gives a yield of 193 g. (=90% of the theoretical).

reactant | cyclohexanedione-mono-p-methoxyphenylhydrazone | 1 mole | COC1=CC=C(C=C1)NN=C1C(CCCC1)=O | C13H16N2O2
reactant | water | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | C(C)O | C2H6O
product | 6-methoxy-1,2,3,4-tetrahydrocarbazol-1-one | COC=1C=C2C=3CCCC(C3NC2=CC1)=O | C13H13NO2
